US06407129B1
To a mixture of 1-[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(1H-tetrazol-1-yl)phenyl]-2-imidazolidinone (0.61 g) and 1-chloroethyl ethyl carbonate (3.7 g) was added acetonitrile (1 ml), and the mixture was stirred for 38 hours at 95° C. The reaction mixture was concentrated under reduced pressure. To the residue was added diisopropyl ether (10 ml), and the resulting powder was collected by filtration. The powder was subjected to ODS column chromatography (eluent: methanol/water=3/2). The eluate was concentrated in vacuo. The residue was dissolved in water (10 ml), and lyophilized to give 1-[(2R,3R)-2-(2,4-difluorophenyl)-2-hydroxy-3-[2-oxo-3-[4-(1H-tetrazol-1-yl)phenyl]-1-imidazolidinyl]butyl]-4-[1-(ethoxy-carbonyloxy)ethyl]-1H-1,2,4-triazolium chloride (Compound 7,90 mg) as a white powder.

reactant | 1-[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(1H-tetrazol-1-yl)phenyl]-2-imidazolidinone | 0.61 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1C(N(CC1)C1=CC=C(C=C1)N1N=NN=C1)=O)(CN1N=CN=C1)O | C22H21F2N9O2
reactant | 1-chloroethyl ethyl carbonate | 3.7 g | C(OC(C)Cl)(OCC)=O | C5H9ClO3
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-[(2R,3R)-2-(2,4-difluorophenyl)-2-hydroxy-3-[2-oxo-3-[4-(1H-tetrazol-1-yl)phenyl]-1-imidazolidinyl]butyl]-4-[1-(ethoxy-carbonyloxy)ethyl]-1H-1,2,4-triazolium chloride | 7,90 mg | [Cl-].FC1=C(C=CC(=C1)F)[C@@](C[NH+]1N=CN(C1)C(C)OC(=O)OCC)([C@@H](C)N1C(N(CC1)C1=CC=C(C=C1)N1N=NN=C1)=O)O | InChI=1S/C27H31F2N9O5.ClH/c1-4-42-26(40)43-19(3)34-16-31-35(17-34)14-27(41,23-10-5-20(28)13-24(23)29)18(2)36-11-12-37(25(36)39)21-6-8-22(9-7-21)38-15-30-32-33-38;/h5-10,13,15-16,18-19,41H,4,11-12,14,17H2,1-3H3;1H/t18-,19?,27-;/m1./s1
